US05753665
A mixture of 3-benzoyloxybutan-2-one (15.5 g) and dimethylformamide dimethylacetal (14.4 g) was heated on a steam bath for 2 hours 30 minutes. The solvent was removed from the mixture under reduced pressure. Petroleum ether (b.p. 60°-80° C.) was added to the residue, with shaking and the ether layer separated from an insoluble red oil. Further petroleum ether was added to the oil with shaking and excess ether was removed under reduced pressure to give a red-brown oil which partially crystallised on standing overnight. Petroleum ether was added and the solid was collected by filtration and washed with petroleum ether to give a yellow crystalline solid of 4-benzoyloxy-1-dimethylamino-1-penten-3-one. Yield 5.6 g. The solid was used directly without further purification in the next step.

reactant | 3-benzoyloxybutan-2-one | 15.5 g | C(C1=CC=CC=C1)(=O)OC(C(C)=O)C | C11H12O3
reactant | dimethylformamide dimethylacetal | 14.4 g | COC(N(C)C)OC | C5H13NO2
product | 4-benzoyloxy-1-dimethylamino-1-penten-3-one | C(C1=CC=CC=C1)(=O)OC(C(C=CN(C)C)=O)C | C14H17NO3
